US05594023
5-Chloro-3-(2-chlorophenyl)-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-(dimethylamino)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 0.500 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)indol-2-one and 0.453 g of 4-(N',N'-diethylureido)benzenesulfonyl chloride. Chromatography on silica using a gradient of a hexane/AcOEt mixture (80/20; v/v to 60/40; v/v) as the eluent gives the expected product after crystallization from a DCM/iso ether mixture. m=0.520 g. M.p.=146°-150° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)indol-2-one | 0.500 g | ClC=1C=C2C(C(NC2=CC1)=O)(N(C)C)C1=C(C=CC=C1)Cl | C16H14Cl2N2O
reactant | 4-(N',N'-diethylureido)benzenesulfonyl chloride | 0.453 g | C(C)N(C(NC1=CC=C(C=C1)S(=O)(=O)Cl)=O)CC | C11H15ClN2O3S
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | 5-Chloro-3-(2-chlorophenyl)-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-(dimethylamino)indol-2-one | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)NC(=O)N(CC)CC)=O)(N(C)C)C1=C(C=CC=C1)Cl | C27H28Cl2N4O4S
